US05932584
The mixture of 1-(2-methoxyphenyl) piperazine hydrochloride (6.86 g, 30 mmol), aq. NaOH (2.5N, 36 mL, 90 mmol) and chloroform (30 mL) was vigorously stirred for 0.5 h. Chloroform layer was separated and stirred with water (50 mL) for another 0.5 h. Chloroform layer after separation was filtrated through Na2SO4 (2 g) and evaporated in vacuo to dryness. The oil residue was dried in vacuo (2 mm Hg, 1 h, 80° C.) to give 5.50 g (95%) of 4-(2-methoxyphenyl)piperazine as slightly yellow oil. It was used in synthesises without further purification.

reactant | 1-(2-methoxyphenyl) piperazine hydrochloride | 30 mmol, 6.86 g | Cl.COC1=C(C=CC=C1)N1CCNCC1
reactant | NaOH | 90 mmol, 2.5N, 36 mL | [OH-].[Na+]
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-methoxyphenyl)piperazine | 5.50 g, 95% | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
